US07687502B2
[3-Chloro-4-({4-[(1-methyl-1H-pyrazol-3-yl)amino]-quinazolin-6-yl}oxy)phenyl]methanol
The compound of Example 131 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 4-fluoro-3-chlorobenzenemethanol, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 4-fluoro-3-chlorobenzenemethanol | FC1=C(C=C(C=C1)CO)Cl | C7H6ClFO
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [3-Chloro-4-({4-[(1-methyl-1H-pyrazol-3-yl)amino]-quinazolin-6-yl}oxy)phenyl]methanol | ClC=1C=C(C=CC1OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C)CO | C19H16ClN5O2
